US05580751
Preparation of N-protected Phe-NH2 by transpeptidation and solvolytic cleavage
Bz-Phe-2,4-dimethoxybenzylamide (4.2 mg) was dissolved in trifluoroacetic acid (1.0 ml) containing 10% (v/v) trifluoromethane sulfonic acid (TFMSA) and the reaction mixture was kept in the dark for 1 h at 20° C. TFA/TFMSA was removed by blowing with N2 and the residue was suspended in 95% (v/v) CH3CN (1.0 ml). The reaction mixture was analyzed by HPLC system-7 and the generated Bz-Phe-NH2 (>95%) was determined quantitatively using a Bz-Phe-NH2 standard solution (Bz-Phe-NH2 was purchased from Bachem, Switzerland).

reactant | Bz-Phe 2,4-dimethoxybenzylamide | 4.2 mg | N([C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)C1=CC=CC=C1.COC1=C(C[NH-])C=CC(=C1)OC
reactant | trifluoromethane sulfonic acid | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | trifluoroacetic acid | 1.0 ml | FC(C(=O)O)(F)F | C2HF3O2
product | Phe-NH2 | N[C@@H](CC1=CC=CC=C1)C(=O)N | C9H12N2O
